US05712300
Preparation of α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-N-hydroxy-3-(2-hydroxyethyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide
A solution of α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-N-benzyloxy-3-(2-hydroxyethyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide (117 mg, 0.202 mmol) is dissolved in EtOH (3 mL) and purged with N2. Pearlman's catalyst (10 mg) is added and the atmosphere is replaced with H2. After 6 hours, the mixture is filtered through celite, washing the residual solids with MeOH, EtOH, and CH2Cl2. The filtrate is concentrated and resubjected to the same procedure. The recovered material (99 mg) is purified by silica gel chromatography (8 g SG; 5, 10% MeOH/CHCl3) to give 45 mg of a white, amorphous solid. The solid is triturated with Et2O/hexane, filtered, and dried. This provides 39 mg (40%) of the title compound as a white, powdery solid (mp 135°-137° C.):

reactant | α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-N-benzyloxy-3-(2-hydroxyethyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 0.202 mmol, 117 mg | FC=1C=C(C(=O)NCCC(C(=O)NOCC2=CC=CC=C2)C2(C(N(CC2)CCC2=CC=CC=C2)=O)CCO)C=CC1F | C32H35F2N3O5
solvent | EtOH | 3 mL | CCO | C2H6O
product | α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-N-hydroxy-3-(2-hydroxyethyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | FC=1C=C(C(=O)NCCC(C(=O)NO)C2(C(N(CC2)CCC2=CC=CC=C2)=O)CCO)C=CC1F | C25H29F2N3O5
